US07692005B2
A mixture of 4-((diethylamino)methyl)aniline (A-04; 100 mg, 0.25 mmol, 1 equivalent) and N-(3-(3-(hydroxymethylene)-2-oxoindoline-6-carbonyl)phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (Scaffold S1; 50 mg, 0.25 mmol, 1 equivalent) was taken in anhydrous THF (2 mL, 0.125 M) and heated at 70° C. for 16 h. Solvent was evaporated under vacuum and the crude product was purified by preparative RP-HPLC. 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid (3-{3-[1-(4-diethylaminomethyl-phenylamino)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide (78 mg, 55%) was obtained as a brown powder.

reactant | 4-((diethylamino)methyl)aniline | 0.25 mmol, 100 mg, 1 equivalent | C(C)N(CC)CC1=CC=C(N)C=C1 | C11H18N2
reactant | N-(3-(3-(hydroxymethylene)-2-oxoindoline-6-carbonyl)phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.25 mmol, 50 mg, 1 equivalent | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C)=O | C22H18N4O4
solvent | THF | 0.125 M, 2 mL | C1CCOC1 | C4H8O
product | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid (3-{3-[1-(4-diethylaminomethyl-phenylamino)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide | 78 mg, 55% | C(C)N(CC)CC1=CC=C(C=C1)N\C=C\1/C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)C)=O | C33H34N6O3
